US04625056
isomerizing said dried potassium benzene carboxylic acid salt mixture by heating under an atmosphere comprising carbon dioxide to produce a dipotassium terephthalic acid salt;

reactant | potassium benzene carboxylic acid salt | C1(=CC=CC=C1)C(=O)[O-].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
product | dipotassium terephthalic acid salt | C(C1=CC=C(C(=O)[O-])C=C1)(=O)[O-].[K+].[K+] | InChI=1S/C8H6O4.2K/c9-7(10)5-1-2-6(4-3-5)8(11)12;;/h1-4H,(H,9,10)(H,11,12);;/q;2*+1/p-2
